US05302621
N-[1,2-Di(2-thienyl)ethyl]-3-oxo-4-azaandrost-5-ene-17β-carboxamide
The title compound was prepared in a yield of 40% in a similar manner to that described in Example 1 by reacting 3-oxo-4-azaandrost-5-ene-17β-carboxylic acid and 1,2-di(2-thienyl)ethylamine.

reactant | 3-oxo-4-azaandrost-5-ene-17β-carboxylic acid | O=C1NC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C(=O)O | C19H27NO3
reactant | 1,2-di(2-thienyl)ethylamine | S1C(=CC=C1)C(CC=1SC=CC1)N | C10H11NS2
product | N-[1,2-Di(2-thienyl)ethyl]-3-oxo-4-azaandrost-5-ene-17β-carboxamide | yield of 40% | S1C(=CC=C1)C(CC=1SC=CC1)NC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3NC(CC[C@]3(C)[C@H]1CC2)=O | C29H36N2O2S2
